US06777428B1
4-[3-(4-phenylbenzamidyl)benzoyl]-1-methylpiperidine
Beginning with 4-[3-aminobenzoyl]-1-methylpiperidine (50 mg, 0.229 mmol) and 4-biphenylcarbonyl chloride (150 mg, 0.687 mmol), 30.8 mg (34%) of the title compound were recovered.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.229 mmol, 50 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | 4-biphenylcarbonyl chloride | 0.687 mmol, 150 mg | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
product | 4-[3-(4-phenylbenzamidyl)benzoyl]-1-methylpiperidine | 30.8 mg, 34% | C1(=CC=CC=C1)C1=CC=C(C(=O)NC=2C=C(C(=O)C3CCN(CC3)C)C=CC2)C=C1 | C26H26N2O2
